datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:22]([C:21](=[C:20]([H:24])[H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:12])([H:10])[H:11],49.2038
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5][C:6]([O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[O:1])[H:3].[H:2][O:8][O:7][C:6]([O:5][C:4]([H:9])([H:10])[H:11])([H:12])[H:13],48.78544
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:12])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14],85.60464
[N:0]([H:1])[H:2].[O:3]>>[H:1][O:3].[N:0][H:2],0.0
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[H:11])[C:4](=[C:5]([H:15])[H:16])[O:6][O:7][C:8]([H:17])([H:18])[H:19])([H:9])[H:10]>>[C:0](=[C:1]1[C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[O:6][C:4]1=[C:5]([H:15])[H:16])([H:9])[H:10].[O:7][C:8]([H:17])([H:18])[H:19],89.9403
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:8])([H:6])[H:7],57.9902
[C:0](=[S:1])([H:2])[H:3].[C:4]([H:5])([H:6])[H:7]>>[C:0]([S:1])([H:2])([H:3])[C:4]([H:5])([H:6])[H:7],-0.8368
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:7],7.564672
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],154.515
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[S:12]=[C:13][S:14][H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13](=[S:12])[S:14][H:15],35.1456
[C:0]([C:1]([O:2][H:7])([H:5])[H:6])([H:3])[H:4].[O:8][H:9]>>[C:0](=[C:1]([O:2][H:7])[H:6])([H:3])[H:4].[H:5][O:8][H:9],0.0
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18][C:19](=[O:20])[H:21],85.52096
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([H:8])([H:9])[H:10],94.1818
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]2([H:17])[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2([H:23])[H:24]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6]1([H:14])[C:7]([H:15])([H:16])[C:8]2([H:17])[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2([H:23])[H:24],87.4038
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])[H:5].[H:4][O:12][H:13],6.8529736
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([S:10][H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:11])([H:12])[H:13])([S:10][H:15])[H:14],51.8816
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22],67.6134
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],70.0402
[C:0](=[C:1]([C:2]([O:3])([H:7])[H:8])[H:6])([H:4])[H:5].[O:9][O:10]>>[C:0](=[C:1]([C:2](=[O:3])[H:8])[H:6])([H:4])[H:5].[H:7][O:9][O:10],25.104
[C:0](=[N:1][H:4])([H:2])[H:3].[C:5]([H:6])([H:7])[H:8]>>[C:0](=[N:1][H:4])[H:3].[H:2][C:5]([H:6])([H:7])[H:8],78.8684
